US05081271
4-[3-(3-Trimethylsilylphenyl)-3-oxo-1-propenyl]benzoic Acid
To a solution of 130 mg (0.676 mmol) of 3'-trimethylsilylacetophenone and 127 mg (0.774 mmol) of methyl 4-formylbenzoate in 4.5 ml of tetrahydrofuran(THF) were added 128 mg (3.20 mmol) of NaOH and 3 ml of hot water, and the mixture was stirred at room temperature overnight. The reaction mixture was adjusted with 7 ml of 0.5N-HCl to pH6, and then the aqueous solution was extracted with ethyl acetate. The extract was washed with 0.05N-HCl and H2O, dried and evaporated. The residue was purified by column chromatography affording 133 mg of pale yellow powder (yield 61%), which was recrystallized from a mixture of methylene chloride, methanol and n-hexane to give 98 mg of pale yellow needles, m.p.179°-180° C. (yield 45%).

reactant | 3'-trimethylsilylacetophenone | 0.676 mmol, 130 mg | C[Si](C=1C=C(C=CC1)C(C)=O)(C)C | C11H16OSi
reactant | methyl 4-formylbenzoate | 0.774 mmol, 127 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | NaOH | 3.20 mmol, 128 mg | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 3 ml | O | H2O
product | 4-[3-(3-Trimethylsilylphenyl)-3-oxo-1-propenyl]benzoic Acid | 133 mg, yield 61% | C[Si](C=1C=C(C=CC1)C(C=CC1=CC=C(C(=O)O)C=C1)=O)(C)C | C19H20O3Si
